US06251925B1
2-(3-Aminophenyl)-3-pyridinecarboxylic acid methyl ester (275 mg);
n.m.r. (DMSO-d6) δ values include 3.65 (s, 3 H), 5.19 (s, 2 H), 6.58 (dt, 2 H), 6.76 (s, 1 H), 7.05 (t, 1 H), 7.44 (dd, 1 H), 8.02 (d, 1 H), 8.73 (d, 1 H); from 2-(3-nitrophenyl)-3-pyridinecarboxylic acid methyl ester (293 mg) and 10% Pd/C (30 mg).

reactant | 2-(3-nitrophenyl)-3-pyridinecarboxylic acid methyl ester | 293 mg | COC(=O)C=1C(=NC=CC1)C1=CC(=CC=C1)[N+](=O)[O-] | C13H10N2O4
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 2-(3-Aminophenyl)-3-pyridinecarboxylic acid methyl ester | COC(=O)C=1C(=NC=CC1)C1=CC(=CC=C1)N | C13H12N2O2
